US04975362
N-Acetyl 2,4,5 trimethylthioaniline was prepared by dissolving 2,4,5 trimethylthioaniline (33 g, 0.143 mol) in 200 mL of acetic anhydride at room temperature. Ligroin (800 mL) was added and the mixture was stirred and cooled until the product precipitated. The solid was collected and dried (24 g, 62% yield), mp 87-89° C.

reactant | 2,4,5 trimethylthioaniline | 0.143 mol, 33 g | CSC1=C(N)C=C(C(=C1)SC)SC | C9H13NS3
reactant | acetic anhydride | 200 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-Acetyl 2,4,5 trimethylthioaniline | 62% yield | C(C)(=O)NC1=C(C=C(C(=C1)SC)SC)SC | C11H15NOS3
